Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2](\[O:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],4.66255519063
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:8][H:9].[O:7]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:8][H:9],-3.70141323509
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],4.400334557219999
[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.93363103447
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11]>>[C:9][O:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],4.02787850937
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:8][H:9])[C:10]([H:11])([H:12])[H:13],3.77532021333
[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:6][H:7],4.03941098745
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9],3.53563860542
[H:11].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-5.98073289324
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[H:4],3.995227276619999
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2],7.240496033849999
[C:5][H:6].[H:1][C:2][O:3][C:4][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])=[C:9][H:10],-7.39616747578
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.88290851561
[C:4]([H:6])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]#[C:5][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.364752501880001
[H:12].[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.6978753954400005
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],4.26322927172
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],-4.95570292877
[O:1]=[C:2]1[O:3][C:4]1=[C:5]([H:6])[H:7]>>[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7],2.52813044101
[C:3]#[C:4][H:5].[O:1]=[C:2]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[H:8],-2.96294507399
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-0.219982700101
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15].[H:12],1.73003905746
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1],5.68109564344
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.45674566405
[H:1][C:2][C:4]([H:5])([H:6])[C:7][O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9][C:10]([H:11])([H:12])[H:13],-5.51292497748
[C:9]=[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-6.28254000263
[H:1][C:2][O:3][C:4][C:9]([C:7](=[C:5][H:6])[H:8])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]1=[C:5]([H:6])[C:7]([H:8])[C:9]1([H:10])[H:11],-3.71256099724
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.99276690366
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](\[H:4])(=[C:5]\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],4.0250147471099975
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([H:4])([H:5])[H:6],3.1884242102900004
